### PR TITLE
feat(CategoryTheory/Limits): add `Functor.mapBinaryBiconeInv`

### PR DESCRIPTION
**Pull request by eric-wieser**
---

- [ ] depends on: #11130

[Open in Gitpod](https://gitpod.io/from-referrer/)

It's tempting to try to prove something like
```lean
theorem Functor.mapBinaryBiconeInv_toCone [Limits.HasZeroMorphisms C]
    [Limits.HasZeroMorphisms D]
    (e : D ⥤ C) [IsEquivalence e] {X Y : D} (b : BinaryBicone (e.obj X) (e.obj Y)) :
    (e.mapBinaryBiconeInv b).toCone =
      (e.mapConeInv <| (Cones.postcompose (pairComp X Y e).symm.hom).obj b.toCone) := by
  simp
  sorry

theorem Functor.mapBinaryBiconeInv_toCocone [Limits.HasZeroMorphisms C]
    [Limits.HasZeroMorphisms D]
    (e : D ⥤ C) [IsEquivalence e] {X Y : D} (b : BinaryBicone (e.obj X) (e.obj Y)) :
    (e.mapBinaryBiconeInv b).toCocone =
      (e.mapCoconeInv <| (Cocones.precompose (pairComp X Y e).hom).obj b.toCocone) := by
  sorry
```
but maybe equality is evil here

### CODE REVIEW

**Comment by TwoFX** [comment]
You could try to state `Functor.mapBinaryBiconeInv_toCone` as an isomorphism of cones, which would be non-evil, though I only have the very sad proof
```lean
def Functor.mapBinaryBiconeInv_toCone [Limits.HasZeroMorphisms C] [Limits.HasZeroMorphisms D]
    (e : D ⥤ C) [IsEquivalence e] {X Y : D} (b : BinaryBicone (e.obj X) (e.obj Y)) :
    (e.mapBinaryBiconeInv b).toCone ≅
      (e.mapConeInv <| (Cones.postcompose (pairComp X Y e).symm.hom).obj b.toCone) :=
  (Cones.functoriality _ e).preimageIso <| by
    dsimp
    refine' _ ≪≫ (mapConeMapConeInv _ _).symm
    refine' Cones.ext (IsEquivalence.counitIso.app b.pt) _
    rintro ⟨(⟨⟩|⟨⟩)⟩
    · simp [pairComp]
      erw [(asEquivalence e).symm.unit_inverse_comp, Category.comp_id]
      rfl
    · simp [pairComp]
      erw [(asEquivalence e).symm.unit_inverse_comp, Category.comp_id]
      rfl
```

File: Mathlib/CategoryTheory/Limits/Preserves/Shapes/Biproducts.lean [hunk 1]
```diff
@@ -84,6 +84,44 @@ def mapBinaryBicone {X Y : C} (b : BinaryBicone X Y) : BinaryBicone (F.obj X) (F
   inr_snd := by rw [← F.map_comp, b.inr_snd, F.map_id]
 #align category_theory.functor.map_binary_bicone CategoryTheory.Functor.mapBinaryBicone
 
+/-- An inverse to `CategoryTheory.Functor.mapBinaryBicone` -/
+@[simps]
+def mapBinaryBiconeInv [IsEquivalence F] {X Y : C} (b : BinaryBicone (F.obj X) (F.obj Y)) :
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Limits/Preserves/Shapes/Biproducts.lean:89]: I guess the "correct" way to do this would be to make `BinaryBicone` into a category and recreate the whole `Cones.functoriality` construction for `BinaryFan`, `BinaryCofan` and `BinaryBicone` and then relate these notions, but that would be quite a bit of work, so I wouldn't be opposed to adding this concrete definition for now if you have need for it. It is a bit sad though that right now we're not even able to state the relationship between `mapBinaryBicone` and `mapBinaryBiconeInv`.

Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/Preserves/Shapes/Biproducts.lean:89]: Ah, I just noticed that you're working towards this in #11102, nice.

Comment (eric-wieser) [reply Mathlib/CategoryTheory/Limits/Preserves/Shapes/Biproducts.lean:89]: Indeed, but thanks for confirming that it is a sensible route to take!

Comment (eric-wieser) [reply Mathlib/CategoryTheory/Limits/Preserves/Shapes/Biproducts.lean:89]: (I'm happy for this PR to wait on that one)

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
